US06159990
To a well stirred solution of [2-cyclopropyl-1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester (1.7 g, 5.4 mmol) in THF (20 mL) was added 95% NaH (0.4 g, 16.2 mmol) at room temperature. The resulting suspension was stirred for 3 h at about 35° C. (warm water bath) and then quenched carefully with ice. The biphasic mixture was extracted with 100 mL of EtOAc, washed with brine, dried over Na2SO4, filtered and the solvent was removed in vacuo to yield 5-cyclopropyl-4-(3,4-difluorophenyl)-oxazolidin-2-one (1.3 g, 93% yield) as a 3:1 mixture of the trans:cis diastereomers. The diastereomers were separated by column chromatography over silica gel with 7:3 cyclohexane/ethyl acetate as the eluting system. The trans isomer eluted first (Rf=2.5, 0.65 g) followed by the cis isomer (Rf =2.0, 0.2 g). The relative streochemistry was assigned by comparing the 1H NMR of the two isomers of 5-cyclopropyl-4-(3,4-difluorophenyl)-oxazolidin-2-one to the corresponding isomers of 4-(3,4-difluorophenyl)-5-methyl-oxazolidin-2-one as described in Example 19.

reactant | [2-cyclopropyl-1-(3,4-difluorophenyl)-2-hydroxy-ethyl]-carbamic acid-tert-butyl ester | 5.4 mmol, 1.7 g | C(C)(C)(C)OC(NC(C(O)C1CC1)C1=CC(=C(C=C1)F)F)=O | C16H21F2NO3
reactant | NaH | 16.2 mmol, 0.4 g | [H-].[Na+]
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-cyclopropyl-4-(3,4-difluorophenyl)-oxazolidin-2-one | 1.3 g, 93% yield | C1(CC1)C1C(NC(O1)=O)C1=CC(=C(C=C1)F)F | C12H11F2NO2
